US04756739
2-amino-5-(2-chloro-1,1,2-trifluoroethoxy)pyridine
In a 1 liter VA stainless steel autoclave, 85.1 g (0.24 mol) of 5-(2-chloro-1,1,2-trifluoroethoxy)-2-(4-nitrophenylazo)pyridine were hydrogenated in 600 ml of acetic acid, with addition of 10 g of palladium (10%) on activated charcoal, using 61 bar (take-up) of hydrogen at 20°-25° C. The mixture was filtered and the solvent removed by distillation on a rotary evaporator. The residue was taken up in 500 ml of dichloromethane, washed with 100 ml of 20% strength aqueous sodium carbonate and four times with 100 ml of water in each case, and dried over sodium sulfate. The solvent was subsequently removed by evaporation on a rotary evaporator and the residue was distilled in a high vacuum.

reactant | 5-(2-chloro-1,1,2-trifluoroethoxy)-2-(4-nitrophenylazo)pyridine | 0.24 mol, 85.1 g | ClC(C(OC=1C=CC(=NC1)N=NC1=CC=C(C=C1)[N+](=O)[O-])(F)F)F | C13H8ClF3N4O3
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 10 g | [Pd] | Pd
product | 2-amino-5-(2-chloro-1,1,2-trifluoroethoxy)pyridine | NC1=NC=C(C=C1)OC(C(F)Cl)(F)F | C7H6ClF3N2O
